US05292458
Add 23.6 g (0.22 mol) N-methylaniline into 92 g (0.2 mol) 14% hexane solution of N-butyllithium and stir it for 10-20 minutes. Drop 33.3 g (0.1 mol) octadecylbromide into the above solution, while stirring it. Add 200 ml water into the solution, after heating and refluxing the solution for about 17 hours and cooling it down to room temperature. Add 6N hydrochloric acid to the solution after concentrating the solution extracted by 300 ml diethyl ether and deposit it. 32.3 g (0.09 mol) N, N-methyloctadecylaniline is obtained by refinement through crystalization with ethyl alcohol and water. Dissolve the obtained 32.3 g (0.09 mol) N, N-methyloctadecylaniline into 250 ml concentrated sulfuric acid. Add 30 ml concentrated nitric acid into the solution while stirring it in an ice water bath. Leave it about one hour after adding the nitric acid. Add the solution into ice water filter off the deposit from it, and refine it by crystalization with ethyl alcohol and water. With the above step, 14.5 g (0.036 mol) N, N-octadecylmethyl-o-nitroaniline is obtained. Add 100 ml 2N hydrochloric acid into this 14.5 g (0.036 mol) N, N-octadecylmethyl-o-nitroaniline which is dissolved into 200 ml ethyl alcohol. 11.7 g (0.031 mol) N, N-octadecylmethyl-o-phenylene-diamine is obtained after adding 11.75 (0.18 mol) zinc dust into the above solution to be heated and refluxed for one hour.

reactant | N-methyloctadecylaniline | CN(C1=CC=CC=C1)CCCCCCCCCCCCCCCCCC | C25H45N
reactant | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | N-octadecylmethyl-o-nitroaniline | C(CCCCCCCCCCCCCCCCC)N(C1=C(C=CC=C1)[N+](=O)[O-])C | C25H44N2O2
